US07799805B2
(4-Chloro-3-hydroxymethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester
TBAF (1M in THF, 14.0 mL, 14.0 mmol) was added to a sol. of [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropylmethyl-carbamic acid tert-butyl ester (3.08 g, 7.00 mmol) in THF (68 mL) at 0° C. The mixture was stirred for 1 h while warming up to rt. EtOAc was added, and the mixture was washed with aq. sat. NH4Cl and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2→CH2Cl2/MeOH 9:1) yielded the title compound (1.00 g, 44%). LC-MS: tR=0.99 min; ES+: 326.10.

reactant | TBAF | 14.0 mmol, 1M, 14.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropylmethyl-carbamic acid tert-butyl ester | 7.00 mmol, 3.08 g | C(C)(C)(C)OC(N(CC1CC1)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C23H38ClNO3Si
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 68 mL | C1CCOC1 | C4H8O
product | (4-Chloro-3-hydroxymethyl-benzyl)-cyclopropylmethyl-carbamic acid tert-butyl ester | 1.00 g, 44% | C(C)(C)(C)OC(N(CC1CC1)CC1=CC(=C(C=C1)Cl)CO)=O | C17H24ClNO3
